US07674795B2
The procedure used in Example 6 is followed. In a 111 ml autoclave, dissolve 730 mg of 4-(5-trifluoromethoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime (Z,E), obtained in the previous stage, in a mixture of 25 ml of ethanol and 25 ml of tetrahydrofuran, add a spatula of Raney activated nickel and then subject to an initial hydrogen pressure of 1 bar and heat the autoclave at 600 for 4 hours. After cooling, the volume of hydrogen absorbed is 122 ml. After filtration of the catalyst over Celite, the filtrate is concentrated under reduced pressure and then taken up in dichloromethane and dried over magnesium sulphate. In this way, we obtain 640 mg of 4-(5-trifluoromethoxy-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)amine, in the form of a beige foam, which is used as it is in the following stage, with the following characteristics:

reactant | hydrogen | [H][H] | H2
reactant | 4-(5-trifluoromethoxy-1H-benzimidazol-2-yl)-9H-fluoren-9-one oxime | 730 mg | FC(OC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)=NO)C=C1)(F)F | C21H12F3N3O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | nickel | [Ni] | Ni
product | 4-(5-trifluoromethoxy-1H-benzimidazol-2-yl)-9H-fluorene-9(R,S)amine | 640 mg | FC(OC1=CC2=C(NC(=N2)C2=CC=CC=3C(C4=CC=CC=C4C23)N)C=C1)(F)F | C21H14F3N3O
